US04003893
[[(Phenylthio)methyl]thio]acetyl chloride
5.1 gms. of [[(phenylthio)methyl]thio]acetic acid, potassium salt are treated with 5 gms. of oxalyl chloride in 10 ml. of methylene chloride at 0°-5° to obtain 3.4 gms. of [[(phenylthio)methyl]thio]acetyl chloride which is used further without purification.

reactant | [[(phenylthio)methyl]thio]acetic acid | C1(=CC=CC=C1)SCSCC(=O)O | C9H10O2S2
reactant | potassium | [K] | K
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [[(Phenylthio)methyl]thio]acetyl chloride | C1(=CC=CC=C1)SCSCC(=O)Cl | C9H9ClOS2
